US06057269
3-(4-Chloro-3-methoxyaminomethylphenyl)-1-methyl-6-trifluoromethyl-1,2,3,4-tetrahydropyrimidine-2,4-dione (compound No. 1.01)
Triethylsilane (1.9 ml) was added dropwise to a solution of 3-(4-chloro-3-methoxyiminomethylphenyl)-1-methyl-6-trifluoromethyl-1,2,3,4-tetrahydropyrimidine-2,4-dione (3.6 g) in a mixture of 30 ml of dichloromethane and 50 ml of trifluoroacetic acid. After the mixture had been stirred for 20 hours at room temperature, the solvent was distilled off. The residue was taken up in 200 ml of dichloromethane, whereupon the organic phase was washed four times using 50 ml of water in each case, dried over sodium sulfate and finally concentrated. Crystallization using diisopropyl ether and petroleum ether gave the title compound (m.p. 83-85° C.).

reactant | Triethylsilane | 1.9 ml | C(C)[SiH](CC)CC | C6H16Si
reactant | 3-(4-chloro-3-methoxyiminomethylphenyl)-1-methyl-6-trifluoromethyl-1,2,3,4-tetrahydropyrimidine-2,4-dione | 3.6 g | ClC1=C(C=C(C=C1)N1C(N(C(=CC1=O)C(F)(F)F)C)=O)C=NOC | C14H11ClF3N3O3
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
solvent | trifluoroacetic acid | 50 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 3-(4-Chloro-3-methoxyaminomethylphenyl)-1-methyl-6-trifluoromethyl-1,2,3,4-tetrahydropyrimidine-2,4-dione | ClC1=C(C=C(C=C1)N1C(N(C(=CC1=O)C(F)(F)F)C)=O)CNOC | C14H13ClF3N3O3
